US06858630B2
2-(3′,4′-dimethylbiphenyl-3-yl)-9-hydroxyl-3H-naphtho[1,2-d]imidazole-7-sulfonic acid hydrochloride(0.08 g, 0.18 mmol) was suspended in 1 ml thionyl chloride containing catalytic amount of N,N-dimethylformamide. The reaction mixture was heated to 60° C. for 3 hours then was concentrated to dryness to give 2-(3′,4′-dimethylbiphenyl-3-yl)-9-hydroxyl-3H-naphtho[1,2-d]imidazole-7-sulfonyl chloride.

reactant | 2-(3′,4′-dimethylbiphenyl-3-yl)-9-hydroxyl-3H-naphtho[1,2-d]imidazole-7-sulfonic acid hydrochloride | 0.18 mmol, 0.08 g | Cl.CC=1C=C(C=CC1C)C1=CC(=CC=C1)C=1NC2=C(N1)C1=C(C=C(C=C1C=C2)S(=O)(=O)O)O
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | thionyl chloride | 1 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-(3′,4′-dimethylbiphenyl-3-yl)-9-hydroxyl-3H-naphtho[1,2-d]imidazole-7-sulfonyl chloride | CC=1C=C(C=CC1C)C1=CC(=CC=C1)C=1NC2=C(N1)C1=C(C=C(C=C1C=C2)S(=O)(=O)Cl)O | C25H19ClN2O3S
